US05171819
In this example, a sample of 2,2,5-trimethylpiperazine was prepared by substantially following the procedure set forth in Example II. However, in this example, 120 g of crude N-(2'-hydroxypropyl)-2-amino-2-methyl-1-propanol, 90 g of water, 60 g of a Ni-Cu-Cr catalyst, and 102 g of ammonia were charged. GLC analysis showed that a 48% yield of 2,2,5-trimethylpiperazine was obtained with 55% dialkanolamine conversion.

reactant | N-(2'-hydroxypropyl)-2-amino-2-methyl-1-propanol | 120 g | OC(CNC(CO)(C)C)C | C7H17NO2
reactant | ammonia | 102 g | N | H3N
solvent | water | 90 g | O | H2O
product | 2,2,5-trimethylpiperazine | 48% yield | CC1(NCC(NC1)C)C | C7H16N2
